US05821239
4-[[(1-Piperidinyl)methylene]amino]-3-pyridinol
4-Amino-3-pyridinol (3.3 g) was added to 1-piperidinylformamide dimethyl acetal (50 ml) and the mixture was stirred at 100° C. until it became homogeneous (approximately one minute). The reaction mixture was cooled, and placed in an ice bath for a half hour. The crystallized product was filtered, washed well with diethyl ether, and air dried to yield 4.64 g of product. This was recrystallized from ethyl acetate and dried under high vacuum and refluxing ethanol overnight to yield 3.39 g of fluffy needles, m.p. 171°-172.5° C.

reactant | 4-Amino-3-pyridinol | 3.3 g | NC1=C(C=NC=C1)O | C5H6N2O
reactant | 1-piperidinylformamide dimethyl acetal | 50 ml | COC(N)(N1CCCCC1)OC | C8H18N2O2
product | 4-[[(1-Piperidinyl)methylene]amino]-3-pyridinol | 4.64 g | N1(CCCCC1)C=NC1=C(C=NC=C1)O | C11H15N3O
